US05606037
Methyl (5,10-dioxo-3,4,5,10-tetrahydronaphtho [2,3-C] pyran-3-yl) ketone BCH-1125
A mixture of methyl (5,8-dioxo-3,4,5,8-tetrahydrobenzo [2,3-C] pyran-3-yl) ketone (100 mg, 0.485 mmol) and acetoxybutadiene (75 μl, 0.630 mmol) in dry benzene (5 mL) was heated for 12 hours at 60° C. under argon atmosphere. The solvent was then removed in vacuo and the resulting adduct dried under reduced pressure. The adduct was dissolved in 10 mL of ethanol and to this solution was added 1 mL of 1% K2CO3 aqueous solution. After stirring for 2 hours at R.T., the reaction mixture was neutralized (pH=6) and extracted with CH2Cl2 (2×50 mL). The organic layer was then washed with water (3×50 mL) and dried over MgSO4. Flash chromatography (toluene:ethyl acetate; 95%:5%) of the residue gave 69 mg (55% yield) of pure titled compound. (MP: 135°-136° C.).

reactant | methyl (5,8-dioxo-3,4,5,8-tetrahydrobenzo [2,3-C] pyran-3-yl) ketone | 0.485 mmol, 100 mg | O=C1C=CC(C=2COC(CC21)C(=O)C)=O | C11H10O4
reactant | acetoxybutadiene | 0.630 mmol, 75 μl | C(C)(=O)OC=CC=C | C6H8O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | Methyl (5,10-dioxo-3,4,5,10-tetrahydronaphtho [2,3-C] pyran-3-yl) ketone | 69 mg, 55% yield | O=C1C2=CC=CC=C2C(C=2COC(CC21)C(=O)C)=O | C15H12O4
